### PR TITLE
[Merged by Bors] - feat(RingTheory/Valuation/ValuativeRel): strict valuative relation

### PR DESCRIPTION
**Pull request by pechersky**
extracted out of #27163

a way of discussing unbundled `posSubmonoid`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 1]
```diff
@@ -101,6 +101,18 @@ namespace ValuativeRel
...
+def rel_lt (x y : R) : Prop := ¬ y ≤ᵥ x
+
+@[inherit_doc] infix:50 " <ᵥ " => ValuativeRel.rel_lt
+
+macro_rules | `($a <ᵥ $b) => `(binrel% ValuativeRel.rel_lt $a $b)
+
+lemma rel_lt_iff (x y : R) : x <ᵥ y ↔ ¬ y ≤ᵥ x := Iff.rfl
+
+@[simp]
+lemma not_rel_lt_iff {x y : R} : ¬ (x <ᵥ y) ↔ y ≤ᵥ x := Iff.rfl.not_left
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
lemma not_rel_lt_iff {x y : R} : ¬ x <ᵥ y ↔ y ≤ᵥ x := Iff.rfl.not_left
```
Not tested but if this doesn't work the `infix:50` probably should be changed.

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 2]
```diff
@@ -101,6 +101,18 @@ namespace ValuativeRel
 
 variable {R : Type*} [CommRing R] [ValuativeRel R]
 
+/-- The strict version of the valuative relation. -/
+def rel_lt (x y : R) : Prop := ¬ y ≤ᵥ x
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
def relLT (x y : R) : Prop := ¬ y ≤ᵥ x
```

Comment (erdOne) [reply Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]: Or perhaps `srel` like `subset <-> ssubset`

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 3]
```diff
@@ -137,16 +153,18 @@ lemma rel_mul {x x' y y' : R} (h1 : x ≤ᵥ y) (h2 : x' ≤ᵥ y') : (x * x') 
...
 /-- The submonoid of elements `x : R` whose valuation is positive. -/
 def posSubmonoid : Submonoid R where
-  carrier := { x | ¬ x ≤ᵥ 0}
-  mul_mem' {x y} hx hy := by
-    dsimp only [Set.mem_setOf_eq] at hx hy ⊢
-    contrapose! hy
-    rw [show (0 : R) = x * 0 by simp, mul_comm x y, mul_comm x 0] at hy
-    exact rel_mul_cancel hx hy
-  one_mem' := not_rel_one_zero
+  carrier := { x | 0 <ᵥ x}
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
  carrier := { x | 0 <ᵥ x }
```

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 4]
```diff
@@ -137,16 +153,18 @@ lemma rel_mul {x x' y y' : R} (h1 : x ≤ᵥ y) (h2 : x' ≤ᵥ y') : (x * x') 
...
+  mul_mem' := zero_rel_lt_mul_of_zero_rel_lt
+  one_mem' := zero_rel_lt_one
 
 @[simp]
 lemma posSubmonoid_def (x : R) : x ∈ posSubmonoid R ↔ ¬ x ≤ᵥ 0 := Iff.refl _
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]: Shall this be changed as well?

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 5]
```diff
@@ -137,19 +153,21 @@ lemma rel_mul {x x' y y' : R} (h1 : x ≤ᵥ y) (h2 : x' ≤ᵥ y') : (x * x') 
 theorem rel_add_cases (x y : R) : x + y ≤ᵥ x ∨ x + y ≤ᵥ y :=
   (rel_total y x).imp (fun h => rel_add .rfl h) (fun h => rel_add h .rfl)
 
+lemma zero_srel_mul_of_zero_srel {x y : R} (hx : 0 <ᵥ x) (hy : 0 <ᵥ y) : 0 <ᵥ x * y := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
lemma zero_srel_mul {x y : R} (hx : 0 <ᵥ x) (hy : 0 <ᵥ y) : 0 <ᵥ x * y := by
```

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 6]
```diff
@@ -421,9 +439,10 @@ instance : LinearOrder (ValueGroupWithZero R) where
 
 @[simp]
 theorem ValueGroupWithZero.mk_lt_mk (x y : R) (t s : posSubmonoid R) :
-    ValueGroupWithZero.mk x t < ValueGroupWithZero.mk y s ↔
-      x * s ≤ᵥ y * t ∧ ¬ y * t ≤ᵥ x * s :=
-  Iff.rfl
+    ValueGroupWithZero.mk x t < ValueGroupWithZero.mk y s ↔ x * s <ᵥ y * t := by
+  rw [lt_iff_le_not_ge, srel_iff]
+  refine and_iff_right_iff_imp.mpr ?_
+  exact (rel_total _ _).resolve_right
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
  rw [lt_iff_not_ge, srel_iff]
```
(not tested)

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by adamtopaz** [comment]
Thanks!
bors r+
